### PR TITLE
[Merged by Bors] - refactor(Data/Matrix): Eliminate `⬝` notation in favor of `HMul`

### PR DESCRIPTION
**Pull request by eric-wieser**
The main difficulty here is that `*` has a slightly difference precedence to `⬝`. notably around `smul` and `neg`.

The other annoyance is that `↑U ⬝ A ⬝ ↑U⁻¹ : Matrix m m 𝔸` now has to be written `U.val * A * (U⁻¹).val` in order to typecheck.

A downside of this change to consider: if you have a goal of `A * (B * C) = (A * B) * C`, `mul_assoc` now gives the illusion of matching, when in fact `Matrix.mul_assoc` is needed. Previously the distinct symbol made it easy to avoid this mistake.

On the flipside, there is now no need to rewrite by `Matrix.mul_eq_mul` all the time (indeed, the lemma is now removed).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Basic.lean [hunk 1]
```diff
@@ -907,31 +906,25 @@ end DotProduct
...
-protected def mul [Fintype m] [Mul α] [AddCommMonoid α] (M : Matrix l m α) (N : Matrix m n α) :
-    Matrix l n α := fun i k => (fun j => M i j) ⬝ᵥ fun j => N j k
-#align matrix.mul Matrix.mul
-
-@[inherit_doc]
-scoped infixl:75 " ⬝ " => Matrix.mul
+instance [Fintype m] [Mul α] [AddCommMonoid α] :
+    HMul (Matrix l m α) (Matrix m n α) (Matrix l n α) where
+  hMul M N := fun i k => (fun j => M i j) ⬝ᵥ fun j => N j k
+#align matrix.mul HMul.hMul
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:915]: This is the interesting part of the diff

File: Mathlib/LinearAlgebra/Matrix/SesquilinearForm.lean [hunk 2]
```diff
@@ -589,17 +589,17 @@ theorem isAdjointPair_toLinearMap₂ :
...
-      J.IsAdjointPair J (P ⬝ A₁ ⬝ P⁻¹) (P ⬝ A₁ ⬝ P⁻¹) := by
+    (Pᵀ * J * P).IsAdjointPair (Pᵀ * J * P) A₁ A₁ ↔
+      J.IsAdjointPair J (P * A₁ * P⁻¹) (P * A₁ * P⁻¹) := by
   have h' : IsUnit P.det := P.isUnit_iff_isUnit_det.mp h
   let u := P.nonsingInvUnit h'
   let v := Pᵀ.nonsingInvUnit (P.isUnit_det_transpose h')
   let x := A₁ᵀ * Pᵀ * J
   let y := J * P * A₁
-  suffices x * ↑u = ↑v * y ↔ ↑v⁻¹ * x = y * ↑u⁻¹ by
+  suffices x * u.val = v.val * y ↔ (v⁻¹).val * x = y * (u⁻¹).val by
```
Comment (joneugster) [inline Mathlib/LinearAlgebra/Matrix/SesquilinearForm.lean:599]: (marking this)

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 3]
```diff
@@ -374,7 +374,8 @@ theorem coe_T_zpow (n : ℤ) : ↑ₘ(T ^ n) = !![1, n; 0, 1] := by
 
 @[simp]
 theorem T_pow_mul_apply_one (n : ℤ) (g : SL(2, ℤ)) : ↑ₘ(T ^ n * g) 1 = ↑ₘg 1 := by
-  simp [coe_T_zpow, Matrix.mul, Matrix.dotProduct, Fin.sum_univ_succ]
+  ext j
+  simp [coe_T_zpow, Matrix.vecMul, Matrix.dotProduct, Fin.sum_univ_succ, vecTail]
```
Comment (joneugster) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:378]: (marking this)

File: Mathlib/LinearAlgebra/Span.lean [hunk 4]
```diff
@@ -271,7 +271,7 @@ theorem span_sup : span R s ⊔ p = span R (s ∪ p) := by rw [Submodule.span_un
 -- mathport name: «expr ∙ »
 notation:1000
   /- Note that the character `∙` U+2219 used below is different from the scalar multiplication
-character `•` U+2022 and the matrix multiplication character `⬝` U+2B1D. -/
+character `•` U+2022 and the matrix multiplication character `*` U+2B1D. -/
```
Comment (joneugster) [inline Mathlib/LinearAlgebra/Span.lean:274]: Needs updating

File: Mathlib/Tactic/ScopedNS.lean [hunk 5]
```diff
@@ -18,8 +18,8 @@ open Lean
 `scoped[NS]` is similar to the `scoped` modifier on attributes and notations,
 but it scopes the syntax in the specified namespace instead of the current namespace.
 ```
-scoped[Matrix] infixl:75 " ⬝ " => Matrix.mul
--- declares `⬝` as a notation for matrix multiplication
+scoped[Matrix] infixl:75 " * " => Matrix.mul
+-- declares `*` as a notation for matrix multiplication
```
Comment (joneugster) [inline Mathlib/Tactic/ScopedNS.lean:22]: Needs updating

File: Mathlib/Topology/Homotopy/Product.lean [hunk 6]
```diff
@@ -120,7 +120,7 @@ namespace Path.Homotopic
 
 attribute [local instance] Path.Homotopic.setoid
 
-local infixl:70 " ⬝ " => Quotient.comp
+local infixl:70 " * " => Quotient.comp
```
Comment (joneugster) [inline Mathlib/Topology/Homotopy/Product.lean:123]: Is this desired?

File: Mathlib/Analysis/Calculus/ContDiff.lean [hunk 7]
```diff
@@ -550,7 +550,7 @@ We show that the composition of `C^n` functions is `C^n`. One way to prove it wo
 the `n`-th derivative of the composition (this is Faà di Bruno's formula) and check its continuity,
 but this is very painful. Instead, we go for a simple inductive proof. Assume it is done for `n`.
 Then, to check it for `n+1`, one needs to check that the derivative of `g ∘ f` is `C^n`, i.e.,
-that `Dg(f x) ⬝ Df(x)` is `C^n`. The term `Dg (f x)` is the composition of two `C^n` functions, so
+that `Dg(f x) * Df(x)` is `C^n`. The term `Dg (f x)` is the composition of two `C^n` functions, so
```
Comment (joneugster) [inline Mathlib/Analysis/Calculus/ContDiff.lean:553]: Can you double-check the comments in this file? I believe they might have used the character `⬝` by accident here.

File: Mathlib/Analysis/Calculus/FDeriv/Symmetric.lean [hunk 8]
```diff
@@ -30,7 +30,7 @@ derivative at `x`, then this second derivative is symmetric.
 
 For the proof, we obtain an asymptotic expansion to order two of `f (x + v + w) - f (x + v)`, by
 using the mean value inequality applied to a suitable function along the
-segment `[x + v, x + v + w]`. This expansion involves `f'' ⬝ w` as we move along a segment directed
+segment `[x + v, x + v + w]`. This expansion involves `f'' * w` as we move along a segment directed
```
Comment (joneugster) [inline Mathlib/Analysis/Calculus/FDeriv/Symmetric.lean:33]: and same for this file, is this change in the comments intended?

**Review by joneugster — COMMENTED** [review]
To help reviewing, I  marked every single line which has a non-trivial change with a comment `(marking this)`. They might not require attention.
"trivial" changes are

- `⬝` to `*` in the context of matrices
- removing `rw [Matrix.mul_eq_mul]`
- prec order `-A ⬝ B` to `-(A * B)`

Most other comments are about docstrings that need to be adapted

File: Mathlib/LinearAlgebra/Span.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Span.lean:274]:
```suggestion
character `•` U+2022. -/
```

File: Mathlib/Topology/Homotopy/Product.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Topology/Homotopy/Product.lean:123]: Nope, this was completely accidental, good catch

File: Mathlib/Analysis/NormedSpace/Spectrum.lean [hunk 9]
```diff
@@ -47,7 +47,7 @@ This file contains the basic theory for the resolvent and spectrum of a Banach a
 
 open scoped ENNReal NNReal
 
-/-- The *spectral radius* is the supremum of the `nnnorm` (`‖⬝‖₊`) of elements in the spectrum,
+/-- The *spectral radius* is the supremum of the `nnnorm` (`‖*‖₊`) of elements in the spectrum,
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Spectrum.lean]: #6522

File: Mathlib/Data/Matrix/Invertible.lean [hunk 10]
```diff
@@ -10,7 +10,7 @@ import Mathlib.Data.Matrix.Basic
 
 /-! # Extra lemmas about invertible matrices
 
-Many of the `Invertible` lemmas are about `*`; this restates them to be about `⬝`.
+Many of the `Invertible` lemmas are about `*`; this restates them to be about `*`.
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Invertible.lean:13]: Yes, this file is now largely superfluous. Should I clean it up in this PR or a follow-up?

File: Mathlib/LinearAlgebra/Matrix/Determinant.lean [hunk 11]
```diff
@@ -275,7 +275,7 @@ theorem det_permutation (σ : Perm n) :
 
 theorem det_smul (A : Matrix n n R) (c : R) : det (c • A) = c ^ Fintype.card n * det A :=
   calc
-    det (c • A) = det (Matrix.mul (diagonal fun _ => c) A) := by rw [smul_eq_diagonal_mul]
+    det (c • A) = det ((diagonal fun _ : n => c) * A) := by rw [smul_eq_diagonal_mul]
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Determinant.lean:278]: I think this one is no longer needed after the `default_instance` change, I'll revert once I have a cache

File: Mathlib/Data/Matrix/PEquiv.lean [hunk 12]
```diff
@@ -61,7 +61,7 @@ theorem toMatrix_apply [DecidableEq n] [Zero α] [One α] (f : m ≃. n) (i j) :
 #align pequiv.to_matrix_apply PEquiv.toMatrix_apply
 
 theorem mul_matrix_apply [Fintype m] [DecidableEq m] [Semiring α] (f : l ≃. m) (M : Matrix m n α)
-    (i j) : (f.toMatrix ⬝ M) i j = Option.casesOn (f i) 0 fun fi => M fi j := by
+    (i j) : (f.toMatrix * M :) i j = Option.casesOn (f i) 0 fun fi => M fi j := by
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Matrix/PEquiv.lean:64]: Without the colon lean complains that it can't work out the motive for the eliminator or something. This is not the same problem as the other one, but perhaps is worth drawing attention to.

File: Mathlib/Data/Matrix/Invertible.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Invertible.lean]: I've cleaned it up, only two lemmas remain.

File: Mathlib/Data/Matrix/PEquiv.lean [hunk 13]
```diff
@@ -152,13 +152,13 @@ theorem toMatrix_swap [DecidableEq n] [Ring α] (i j : n) :
...
     (a : m) (b : n) (c : k) :
-    ((single a b).toMatrix : Matrix _ _ α) ⬝ (single b c).toMatrix = (single a c).toMatrix := by
+    ((single a b).toMatrix : Matrix _ _ α) * (single b c).toMatrix = (single a c).toMatrix := by
   rw [← toMatrix_trans, single_trans_single]
 #align pequiv.single_mul_single PEquiv.single_mul_single
 
 theorem single_mul_single_of_ne [Fintype n] [DecidableEq n] [DecidableEq k] [DecidableEq m]
     [Semiring α] {b₁ b₂ : n} (hb : b₁ ≠ b₂) (a : m) (c : k) :
-    ((single a b₁).toMatrix : Matrix _ _ α) ⬝ (single b₂ c).toMatrix = 0 := by
+    (single a b₁).toMatrix * (single b₂ c).toMatrix = (0 : Matrix _ _ α) := by
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Matrix/PEquiv.lean:161]: Without this change, Lean elaborates the `0` as a `Nat`

**Comment by eric-wieser** [comment]
I've hopefully addressed all the bad docstrings now.

**Review by joneugster — APPROVED** [review]

**Comment by eric-wieser** [comment]
> In particular I'm happy to see no increase in `maxHeartbeats` (it seems there was [previously](https://github.com/leanprover-community/mathlib4/pull/6487/files/b5a2b4aacaee44963984c83e37e1efb727440cb6#diff-4948efbf24e33f8f3129753afe3cd3fb38c5a975302a464f14ab4cab224fe802)).

I think the increases is just incredibly small; in the previous revision, adding or removing `@[simp]` was enough to push it over the threshold. In the meantime, someone else bumped the hearbeats by much more!

**Comment by eric-wieser** [comment]
bors merge
